US07256198B2
Step 7: 7-Chloro-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-sulfonyl chloride
Chlorosulfonic acid (6 mL, 90.3 mmol, 12.2 eq) was added slowly to solid 7-chloro-3,4-dihydropyrimido(1,2-a)indol-10-(2H)-one (1.64 g, 7.43 mmol) with cooling in an ice bath. The ice bath was removed and the reaction mixture was heated to 65-78° C. for 2 hours. After cooling to room temperature the reaction was added drop-wise via pipette onto ice keeping the temperature cold with an external ice bath. The reaction mixture was extracted with CHCl3 (3×) and CH2Cl2 (2×). The combined organic extracts were dried over MgSO4 and concentrated. The crude product was purified on Biotage KP silica gel eluting with EtOAc to give the title compound as a bright yellow solid (0.142 g, 6% yield). NMR (400 MHz, DMSO-d6): consistent.

reactant | Chlorosulfonic acid | 90.3 mmol, 6 mL, 12.2 eq | ClS(=O)(=O)O | ClHO3S
reactant | 7-chloro-3,4-dihydropyrimido(1,2-a)indol-10-(2H)-one | 7.43 mmol, 1.64 g | ClC=1C=CC=2C(C=3N(C2C1)CCCN3)=O | C11H9ClN2O
product | 7-Chloro-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-sulfonyl chloride | 0.142 g, 6% yield | ClC=1C(=CC=2C(C=3N(C2C1)CCCN3)=O)S(=O)(=O)Cl | C11H8Cl2N2O3S
